US03994920
Condense o-(2-thienoyl)benzoic acid with ethylenediamine by the procedure of Example 1 to obtain 9b-(2-thienyl)-1,2,3,9b-tetrahydro-5H-imidazo[2,1-a]isoindol-5-one and reduce with lithium aluminum hydride as described in Example 1 to obtain 1,2,3,4,5,6-hexahydro-1-(2-thienyl)-2,5-benzodiazocine, m.p. 148° C. The dihydrochloride melts at 241° C.

reactant | o-(2-thienoyl)benzoic acid | S1C(=CC=C1)C(=O)C1=C(C(=O)O)C=CC=C1 | C12H8O3S
reactant | ethylenediamine | C(CN)N | C2H8N2
product | 9b-(2-thienyl)-1,2,3,9b-tetrahydro-5H-imidazo[2,1-a]isoindol-5-one | S1C(=CC=C1)C12N(C(C3=CC=CC=C13)=O)CCN2 | C14H12N2OS
